US07741341B2
(i) 1-(4-Amino-phenyl)-piperazin-2-one
To a solution of 670 mg 1-(4-Nitro-phenyl)-1H-pyrazin-2-one in 100 mL MeOH, 8 g Raney Nickel (washed three times with MeOH) were introduced under a nitrogen atmosphere. Then 10 mL of a 7 M solution of NH3 in MeOH were added. The nitrogen atmosphere was replaced by a hydrogen atmosphere and the mixture was hydrogenated under normal pressure at RT. After 2 h the reaction mixture was filtered through a pad of celite. The solvents were removed under reduced pressure and the residue was subjected to the next reaction step without further purification.

reactant | 1-(4-Nitro-phenyl)-1H-pyrazin-2-one | 670 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C=NC=C1)=O | C10H7N3O3
reactant | NH3 | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Raney Nickel | 8 g | [Ni] | Ni
product | 1-(4-Amino-phenyl)-piperazin-2-one | NC1=CC=C(C=C1)N1C(CNCC1)=O | C10H13N3O
